US04168304
968 g (4 mol) of sodium methylate in methanol were added to a solution of 187 g (2 mol) of acetamidine hydrochloride and 292 g (2 mol) of γ-methoxyacetoacetic acid methyl ester in 1,000 ml of methanol at 5° C., the mixture was warmed for 3 hours at 50° C. and the solvent was then stripped off under reduced pressure. The residue was dissolved in 500 ml of ice-water and brought to pH ca.6 with concentrated hydrochloric acid, while cooling externally, the precipitate was filtered off, washed with ether and then dried in a desiccator over phosphorus pentoxide. 180 g (58% of theory) of 2-methyl-4-methoxymethyl-6-hydroxy-pyrimidine were obtained in the form of a white powder of melting point 168°-170° C.

reactant | sodium methylate | 4 mol, 968 g | C[O-].[Na+]
reactant | acetamidine hydrochloride | 2 mol, 187 g | Cl.C(C)(=N)N
reactant | γ-methoxyacetoacetic acid methyl ester | 2 mol, 292 g | COC(CC(=O)COC)=O | C6H10O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 1,000 ml | CO | CH4O
product | 2-methyl-4-methoxymethyl-6-hydroxy-pyrimidine | 180 g, 58% | CC1=NC(=CC(=N1)COC)O | C7H10N2O2
